US09315458B2
H) methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-2-formyl-4-methylbenzoate
To a mixture of methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-4-methyl-2-vinylbenzoate (0.21 g), acetone (2.3 mL), acetonitrile (2.3 mL) and water (2.3 mL) were added osmium oxide (fixed catalyst I) (0.08 g) and sodium periodate (0.63 g) at room temperature, and the mixture was stirred overnight at the same temperature. The insoluble substance was removed by filtration, and the filtrate was diluted with ethyl acetate. The solution was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.21 g) as a crude product. This compound was used in the next step without an additional purification.

reactant | methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-4-methyl-2-vinylbenzoate | 0.21 g | N1(N=CC=C1)C1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=C)F)C)C=C1 | C21H19FN2O2
reactant | acetone | 2.3 mL | CC(=O)C | C3H6O
reactant | acetonitrile | 2.3 mL | C(C)#N | C2H3N
reactant | sodium periodate | 0.63 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium oxide | [Os]=O
catalyst | osmium oxide | 0.08 g | [Os]=O
solvent | water | 2.3 mL | O | H2O
product | methyl 5-(4-(1H-pyrazol-1-yl)benzyl)-3-fluoro-2-formyl-4-methylbenzoate | 0.21 g | N1(N=CC=C1)C1=CC=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=O)F)C)C=C1 | C20H17FN2O3
